2101-02-22 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Decreased U/o, refusing lasix.
   -urine lytes sent; prerenal
   -U/o overnight 100cc
   -put in for renal ultrasound in am
   -ordered 20IV lasix x1 at 5am
   Allergies:
   Penicillins
   Unknown;
   Iodine
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Ciprofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2101-2-21**] 09:00 AM
   Cefipime - [**2101-2-21**] 01:50 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-2-21**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-22**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 66 (60 - 91) bpm
   BP: 147/59(81) {118/36(59) - 150/85(101)} mmHg
   RR: 25 (17 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    730 mL
                                                                    240 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                    160 mL
   Urine:
                                                                    275 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    455 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 1,942 (828 - 1,942) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///17/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   10.4 g/dL
   396 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.5 mEq/L
   73 mg/dL
   100 mEq/L
   131 mEq/L
   29.0 %
   9.1 K/uL
         [image002.jpg]
                             [**2101-2-21**]  05:17 AM
                             [**2101-2-21**]  11:44 PM
                             [**2101-2-22**]  03:01 AM
   WBC
   8.5
   9.1
   Hct
   30.5
   29.0
   Plt
   323
   357
   Cr
   1.8
   2.1
   TropT
   0.02
   Glucose
   127
   374
   396
   Other labs: CK / CKMB / Troponin-T:104/2/0.02, ALT / AST:6/31, Alk Phos
   / T Bili:70/0.4, Albumin:3.1 g/dL, LDH:591 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment/Plan: The patient is an 88 year old female with history of
   CAD, hypertension who presents with epigastric and chest pain with
   evidence of pneumonia on CXR.
   #. Respiratory distress: worsening tachypnea to RR 40s [**1-17**] pna w/ bil
   rhonchi, crackles at bases bil, kept pt from adequetely perfusing. Pt
   required 5L of 02. ABG 7.37/42/61/25. Now stable on CPAP. T101.4,
   - continue CPAP
   - serial ABGs
   - methylprednisolone 125mg IV x1
   .
   #. Pneumonia, Bacterial NOS: Patient with evidence of new pneumonia
   since last admission in LLL. Given new finding, likely accounts for
   symptoms with possible contribution of diaphragmatic irritation
   accounting for epigastric discomfort although presentation in total is
   not classic for pneumonia.  not septic in appearance,
   - continue current abx vanco/cefepime
   .
   #. Chronic Diastolic CHF, EF > 55%: Patient appears euvolemic to mildly
   hypervolemic. Chest film without engorgement of pulmonary vasculature
   or effusion
   - lasix 20 IV x1 (refusing)
   - foley to gravity
   .
   #. CKD- stage 3, baseline 1.3, currently 1.7.
   - will moniter
   .
   #. Chest Pain: Patient has a known history of CAD however reports her
   current discomfort is different in quality, likely related to interval
   pneumonia as above. ECG without dynamic changes, first set CE negative
   - cycle CE one additional to rule out given known CAD and
   nausea/epigastric pain
   - PNA management as above
   - CAD management as below
   .
   #. Abdominal pain, epigastric: As above, may be related to interval
   pneumonia although gastritis or other GI pathology possible, patient
   with known history of H. Pylori. Abdominal exam otherwise generally
   benign.
   - continue PPI, Maalox PRN for potential gastritis
   - guaiac stools
   .
   #. CAD, s/p bypass graft: ECG without dynamic change, ruling out as
   above
   - complete ROMI
   - continue Aspirin, PLavix, Statin, Metoprolol
   .
   #. Hypertension, benign: Patient with elevated BP with SBP near 220 in
   ED, improved after having received her home medications
   - continue outpatient regimen of Clonidine patch, Nifedipine,
   Metoprolol
   .
   #. Diabetes II controlled with complication: Blood sugar with
   reasonable control on admission
   - continue Insulin with Lantus and sliding scale per outpatient
   regimen
   .
   .
   #. Chronic UTIs - continue Nitrofurantoin per outpatient regimen
   .
   #. GERD: Continue Pantoprazole
   .
   #. FEN - low Na, Cardiac diet
   .
   #. Ppx - SQ Heparin, PPI
   .
   #. Code - DNR/DNI, confirmed with patient on admission
   .
   #. Dispo - Pending clinical improvement
   .
   #. Communication:
   grandduaghter - [**First Name5 (NamePattern1) **] [**Known lastname 5091**] [**Numeric Identifier 5092**]
   son - [**First Name4 (NamePattern1) 5093**] [**Known lastname 5091**] - [**Numeric Identifier 5094**]
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 GASTRITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2101-2-21**] 03:54 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2101-02-23 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: The patient is an 88 year old female with history of
   CAD, hypertension who presents with epigastric and chest pain with
   evidence of pneumonia on CXR.
   24 Hour Events:
 ULTRASOUND - At [**2101-2-22**] 12:30 PM
   IMPRESSION: No evidence of hydronephrosis on the left. Previous right
   nephrectomy. Mild distention of the bladder.
   Yesterday evening pt became tachypnic, hypoxic and family was called.
   Family indicated that they wanted to continue abx, but for respiratory
   distress they do not want intubation so morphine was added for pt to
   receive when uncomfortable.
   PIV placed
   Morphine made available to pt after d/w family
   did not receive fluid bolus [**1-17**] IV issues
   Allergies:
   Penicillins
   Unknown;
   Iodine
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Ciprofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2101-2-22**] 08:04 AM
   Cefipime - [**2101-2-22**] 08:08 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2101-2-22**] 08:09 PM
   Morphine Sulfate - [**2101-2-23**] 04:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-23**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 70 (60 - 81) bpm
   BP: 156/45(75) {121/44(37) - 185/113(116)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,240 mL
                                                                    277 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    760 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    100 mL
   Urine:
                                                                    680 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   10.4 g/dL
   396 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.5 mEq/L
   73 mg/dL
   100 mEq/L
   131 mEq/L
   29.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2101-2-21**]  05:17 AM
                             [**2101-2-21**]  11:44 PM
                             [**2101-2-22**]  03:01 AM
   WBC
   8.5
   9.1
   Hct
   30.5
   29.0
   Plt
   323
   357
   Cr
   1.8
   2.1
   TropT
   0.02
   Glucose
   127
   374
   396
   Other labs: CK / CKMB / Troponin-T:104/2/0.02, ALT / AST:6/31, Alk Phos
   / T Bili:70/0.4, Albumin:3.1 g/dL, LDH:591 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 GASTRITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment/Plan: The patient is an 88 year old female with history of
   CAD, hypertension who presents with epigastric and chest pain with
   evidence of pneumonia on CXR.
   #. Pneumonia, Bacterial NOS: Patient with evidence of new pneumonia
   since last admission in LLL. Given new finding, likely accounts for
   symptoms with possible contribution of diaphragmatic irritation
   accounting for epigastric discomfort although presentation in total is
   not classic for pneumonia.  not septic in appearance,
   - continue current abx vanco/cefepime day #[**3-22**]
   #. Chronic Diastolic CHF, EF > 55%: Pt has worsened pleural effusions
   on cxr.
   -Will maximize BP control.
   - incr hydral to 20mg po q8h to help w/ diastolic failure
   #. ARF
 FeNa <1%.
   - Renal u/s did not show obstruction
   - encourage PO intake, cr improving with oral intake
   #. Diabetes II controlled with complication: Blood sugar with
   reasonable control on admission
   - increased pt
s ISS
   #. Chest Pain: Patient has a known history of CAD however reports her
   current discomfort is different in quality, likely related to interval
   pneumonia as above. ECG without dynamic changes, first set CE negative
   -  continue SL nitro prn pain
   #. Abdominal pain, epigastric: As above, may be related to interval
   pneumonia although gastritis or other GI pathology possible, patient
   with known history of H. Pylori. Abdominal exam otherwise generally
   benign.
   - continue PPI, Maalox PRN for potential gastritis
   - guaiac stools
   #. CAD, s/p bypass graft: ECG without dynamic change, ruling out as
   above
   - complete ROMI
   - continue Aspirin, PLavix, Statin, Metoprolol
   #. Hypertension, benign: Patient with elevated BP with SBP near 220 in
   ED, improved after having received her home medications
   - continue outpatient regimen of Clonidine patch, Nifedipine,
   Metoprolol
   #. Chronic UTIs - continue Nitrofurantoin per outpatient regimen
   #. GERD: Continue Pantoprazole
   #. FEN - low Na, Cardiac diet
   #. Ppx - SQ Heparin, PPI
   #. Code - DNR/DNI, confirmed with patient on admission
   - After discussion with pt
s family on [**2-22**] family confirmed that they
   wanted to continue abx, but allow pt to have morphine for SOB.
   #. Dispo - Pending clinical improvement
   #. Communication:
   grandduaghter - [**First Name5 (NamePattern1) **] [**Known lastname 5091**] [**Numeric Identifier 5092**]
   son - [**First Name4 (NamePattern1) 5093**] [**Known lastname 5091**] - [**Numeric Identifier 5094**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2101-2-22**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   General: NAD on nasal canula
   HEENT: NCAT, EOMI, sclera anicteric, conjunctiva WNL
   OP: MMM, no lesions
   Neck: supple, unable to assess JVP
   Chest: worsened rales, and wheezes
   Cor: RRR, no M/R/G
   Abdomen: Obese, soft, non-tender in epigastrium. Mild tenderness to
   palpation in suprapubic distribution
   Ext: 1+ LE edema
   Skin/Nails: No rash
   Neuro: Grossly intact
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   ------ Protected Section Addendum Entered By:[**Name (NI) 866**] [**Last Name (NamePattern1) 5133**], MD
   on:[**2101-2-23**] 13:44 ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined. Somehat better this
   am
 RR down, HR down, SaO2 up above 90%.  Desats and decompensates
   with min movement, however.
   Diffuse wheezing
   RR 30
   Creat down to 1.5 although UO only ~ 300 cc
   Extensive family meeting. In light of her clear wish to limit
   interventions and manage her own care we will continue iv abx and give
   morphine if she becomes uncomfortable. Her sons are aware that her
   heart disease is very severe and that she likely will not recover.  We
   will continue insulin, abx and morphine but limit other interventions
   Time spent 75 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2101-2-23**] 18:01 ------

2101-02-24 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Assessment/Plan: The patient is an 88 year old female
   with history of CAD, hypertension who presents with epigastric and
   chest pain with evidence of pneumonia on CXR.
   24 Hour Events:
   - to [**Hospital **] rehab in AM MACU
   - hydral incr to 20mg q8
   Allergies:
   Penicillins
   Unknown;
   Iodine
   Unknown;
   Vasotec (Oral) (Enalapril Maleate)
   Cough;
   Ciprofloxacin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2101-2-22**] 08:04 AM
   Cefipime - [**2101-2-23**] 02:20 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2101-2-23**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2101-2-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-2-24**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 70 (67 - 92) bpm
   BP: 149/51(75) {139/47(75) - 177/110(115)} mmHg
   RR: 22 (16 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    770 mL
                                                                    158 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    170 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    350 mL
   Urine:
                                                                    650 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    120 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   410 K/uL
   11.3 g/dL
   134 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.3 mEq/L
   59 mg/dL
   103 mEq/L
   135 mEq/L
   33.1 %
   9.6 K/uL
        [image002.jpg]
                             [**2101-2-21**]  05:17 AM
                             [**2101-2-21**]  11:44 PM
                             [**2101-2-22**]  03:01 AM
                             [**2101-2-23**]  07:39 AM
   WBC
   8.5
   9.1
   9.6
   Hct
   30.5
   29.0
   33.1
   Plt
   [**Telephone/Fax (3) 5143**]
   Cr
   1.8
   2.1
   1.5
   TropT
   0.02
   Glucose
   127
   374
   396
   134
   Other labs: CK / CKMB / Troponin-T:104/2/0.02, ALT / AST:6/31, Alk Phos
   / T Bili:70/0.4, Albumin:3.1 g/dL, LDH:591 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 GASTRITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, CHRONIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 GASTRITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Assessment/Plan: The patient is an 88 year old female with history of
   CAD, hypertension who presents with epigastric and chest pain with
   evidence of pneumonia on CXR.
   #. Pneumonia, Bacterial NOS: Patient with evidence of new pneumonia
   since last admission in LLL. Given new finding, likely accounts for
   symptoms with possible contribution of diaphragmatic irritation
   accounting for epigastric discomfort although presentation in total is
   not classic for pneumonia.  not septic in appearance,
   - continue current abx vanco/cefepime day #[**3-22**]
   #. Chronic Diastolic CHF, EF > 55%: Pt has worsened pleural effusions
   on cxr.
   -Will maximize BP control.
   - incr hydral to 20mg po q8h to help w/ diastolic failure
   #. ARF
 FeNa <1%.
   - Renal u/s did not show obstruction
   - encourage PO intake, cr improving with oral intake
   #. Diabetes II controlled with complication: Blood sugar with
   reasonable control on admission
   - increased pt
s ISS
   #. Chest Pain: Patient has a known history of CAD however reports her
   current discomfort is different in quality, likely related to interval
   pneumonia as above. ECG without dynamic changes, first set CE negative
   -  continue SL nitro prn pain
   #. Abdominal pain, epigastric: As above, may be related to interval
   pneumonia although gastritis or other GI pathology possible, patient
   with known history of H. Pylori. Abdominal exam otherwise generally
   benign.
   - continue PPI, Maalox PRN for potential gastritis
   - guaiac stools
   #. CAD, s/p bypass graft: ECG without dynamic change, ruling out as
   above
   - complete ROMI
   - continue Aspirin, PLavix, Statin, Metoprolol
   #. Hypertension, benign: Patient with elevated BP with SBP near 220 in
   ED, improved after having received her home medications
   - continue outpatient regimen of Clonidine patch, Nifedipine,
   Metoprolol
   #. Chronic UTIs - continue Nitrofurantoin per outpatient regimen
   #. GERD: Continue Pantoprazole
   #. FEN - low Na, Cardiac diet
   #. Ppx - SQ Heparin, PPI
   #. Code - DNR/DNI, confirmed with patient on admission
   - After discussion with pt
s family on [**2-22**] family confirmed that they
   wanted to continue abx, but allow pt to have morphine for SOB.
   #. Dispo - Pending clinical improvement
   #. Communication:
   grandduaghter - [**First Name5 (NamePattern1) **] [**Known lastname 5091**] [**Numeric Identifier 5092**]
   son - [**First Name4 (NamePattern1) 5093**] [**Known lastname 5091**] - [**Numeric Identifier 5094**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2101-2-22**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: